US06951864B2
4-[2-(3-Fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-6-pyridin-3-yl-pyrimidine
A mixture of 4-chloro-6-[2-(3-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-pyrimidine (268 mg, 0.81 mmol), 3-pyridyl boronic acid (1.84 mmol), Pd2(dba)3 (37 mg, 0.04 mmol), (t-Bu)3P (8 mg, 0.04 mmol) and Cs2CO3 (600 mg, 1.84 mmol) in dioxane (6 mL) is degassed. The mixture is then heated at 100° C. for 6 hours. The solvent is removed in vacuo and water (10 mL) and EtOAc (15 mL) is added. The layers are separated and the aqueous layer is extracted with EtOAc (15 mL). The combined extracts are washed with brine (20 mL), dried (Na2SO4), and evaporated. Preparative TLC purification of the residue provides the title product. 1H NMR (CDCl3) 8.95 (s, 1H), 8.69 (s, 2H), 8.24 (d, 1H), 7.79 (d, 1H), 7.51 (t, 1H), 7.40-7.43 (m, 1H), 7.32 (s, 1H), 7.21-7.25 (m, 1H), 7.19 (s, 1H), 5.91 (s, 2H), 2.65-2.69 (m, 2H), 1.41-1.47 (m, 2H), 0.81 (t, 3H).

reactant | 4-chloro-6-[2-(3-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-pyrimidine | 0.81 mmol, 268 mg | ClC1=NC=NC(=C1CCC)CN1C(=NC=C1)C1=NC=CC=C1F | C16H15ClFN5
reactant | 3-pyridyl boronic acid | 1.84 mmol | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | (t-Bu)3P | 0.04 mmol, 8 mg | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | Cs2CO3 | 1.84 mmol, 600 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.04 mmol, 37 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[2-(3-Fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-6-pyridin-3-yl-pyrimidine | FC=1C(=NC=CC1)C=1N(C=CN1)CC1=NC=NC(=C1CCC)C=1C=NC=CC1 | C21H19FN6
